US09079880B2
Synthesis of 1-Oxo-1,2-dihydro-isoquinoline-6-carboxylic acid methyl ester
To a mixture of 6-bromo-2H-isoquinolin-1-one (4.00 g, 17.9 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (750 mg, 0.92 mmol), triethylamine (9.0 mL, 65 mmol) in a Parr bomb add a 1:1 mixture (v/v) of DMF and MeOH. Seal the apparatus and flush with 100 psi of carbon monoxide (3×). Heat the reaction mixture at 70° C. with stifling for 15 h. Remove the solvent in vacuo and wash the residue with MeOH then crystallize from dichloromethane to give 3.11 g of the desired product 1-oxo-1,2-dihydro-isoquinoline-6-carboxylic acid methyl ester as an off white solid in 86% yield.

reactant | 6-bromo-2H-isoquinolin-1-one | 17.9 mmol, 4.00 g | BrC=1C=C2C=CNC(C2=CC1)=O | C9H6BrNO
reactant | triethylamine | 65 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
reactant | MeOH | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.92 mmol, 750 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Oxo-1,2-dihydro-isoquinoline-6-carboxylic acid methyl ester | 3.11 g, 86% yield | COC(=O)C=1C=C2C=CNC(C2=CC1)=O | C11H9NO3
